US06524770B1
o-tolidine;
o-tolidine sulfone; 4,4′-methylene-bis-(2,6-diethyl aniline);

reactant | o-tolidine sulfone | CC1=C(C=C2C(=C1)C3=CC(=C(C=C3S2(=O)=O)N)C)N | C14H14N2O2S
reactant | 4,4′-methylene-bis-(2,6-diethyl aniline) | C(C1=CC(=C(N)C(=C1)CC)CC)C1=CC(=C(N)C(=C1)CC)CC | C21H30N2
product | o-tolidine | CC1=C(C=CC(=C1)C2=CC(=C(C=C2)N)C)N | C14H16N2
